US07435823B2
Step (b) Preparation of N1-(3-(dimethylamino)propyl)-N1-methyl-4-(trifluoromethyl)benzene-1,2-diamine
To N-(3-(dimethylamino)propyl)-N-methyl-2-nitro-4-(trifluoromethyl)benzenamine (Step a, 1.42 g, 4.65 mmol) in MeOH (47 mL) was added Pd/C (10%, 493 mg, 0.465 mmol). The mixture was stirred overnight under an atmosphere of H2. The mixture was filtered through a pad of Celite and concentrated to afford the title compound as a brown oil. M+H-276. Calc'd for C13H20F3N3-275.32.

reactant | N-(3-(dimethylamino)propyl)-N-methyl-2-nitro-4-(trifluoromethyl)benzenamine | CN(CCCN(C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])C)C | C13H18F3N3O2
solvent | MeOH | 47 mL | CO | CH4O
catalyst | Pd/C | 0.465 mmol, 493 mg | [Pd] | Pd
product | N1-(3-(dimethylamino)propyl)-N1-methyl-4-(trifluoromethyl)benzene-1,2-diamine | CN(CCCN(C=1C(=CC(=CC1)C(F)(F)F)N)C)C | C13H20F3N3
